US05830892
Methyl 3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)benzoate (1.56 g, 5.5 mmol) was dissolved in ether (20 ml) and cooled in ice. Water (98 ml, 98 mg, 5.5 mmol) then lithium borohydride (131 mg, 6 mmol) were added and the mixture was stirred at room temperature for 1 hour. Tetrahydrofuran (10 ml) was added and the mixture was stirred at room temperature for 1 hour. Methanol (5 ml) was added and the solvent was evaporated under reduced pressure. Saturated aqueous sodium hydrogen carbonate (20 ml) and water (10 ml) were added and the mixture was extracted with dichloromethane (10×10 ml). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by MPLC on silica gel, eluting with ethyl acetatelhexane (50:50 increasing to 100:0) to give 3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethanol as a colorless oil (1.00 g, 70%), 1H (CDCl 3) δ 7.84 (1H, s), 7.75 (1H, s), 7.67 (1H, s), 4.92 (2H, s), 2.67 (3H, s), and 1.86 (1H, br s). m/z 259 (M+H+).

reactant | Methyl 3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)benzoate | 5.5 mmol, 1.56 g | CC1=NN=NN1C=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C11H9F3N4O2
reactant | Water | 5.5 mmol, 98 ml, 98 mg | O | H2O
reactant | lithium borohydride | 6 mmol, 131 mg | [BH4-].[Li+]
reactant | Tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | Methanol | 5 ml | CO | CH4O
product | 3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethanol | 1.00 g, 70% | CC1=NN=NN1C=1C=C(C=C(C1)C(F)(F)F)CO | C10H9F3N4O
